US06599902B2
Synthesis of 5-(2,3-Dichloro-phenylmethanesulfonyl)-3-[1-[4-((3R,5S)-3,5-dimethyl-piperazine-1-carbonyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
5-[5-(2,3-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (110 mg, 0.22 mmol) was coupled with (2S,6R)-2,6-dimethyl-piperazine (31 mg, 1.2 eq.) using HOBt (1.2 eq.), EDAC.HCl (1.2 eq.) and TEA (3 eq.) in DMSO. The reaction was concentrated and purified on a silica gel column to give the titled compound.

reactant | 5-[5-(2,3-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.22 mmol, 110 mg | ClC1=C(C=CC=C1Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)O)C | C23H18Cl2N2O5S
reactant | (2S,6R)-2,6-dimethyl-piperazine | 31 mg, 1.2 eq. | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
reactant | HOBt | 1.2 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC.HCl | 1.2 eq. | CCN=C=NCCCN(C)C.Cl
solvent | DMSO | CS(=O)C | C2H6OS
product | 5-(2,3-Dichloro-phenylmethanesulfonyl)-3-[1-[4-((3R,5S)-3,5-dimethyl-piperazine-1-carbonyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | ClC1=C(C=CC=C1Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC(=C(C1C)C(=O)N1C[C@H](N[C@H](C1)C)C)C | C29H30Cl2N4O4S
